US07713994B2
4-(Cyclopropylmethoxy)-3-hydroxybenzaldehyde
A mixture of 3,4-dihydroxybenzaldehyde (4.14 g, 30 mmol), cyclopropylmethyl bromide (3.06 mL, 31.5 mmol), potassium carbonate (8.29 g, 60 mmol) in acetone (90 mL) is heated at 50 C overnight. After filtration, the solution is dried to a gum, which is dissolved in ethyl acetate, and washed with water. It is dried to an oil and then chromatographed to yield 0.42 g (7%) of the title compound as a white powder. MS (ESI) m/z 191.2 (M−H)−1.

reactant | 3,4-dihydroxybenzaldehyde | 30 mmol, 4.14 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | cyclopropylmethyl bromide | 31.5 mmol, 3.06 mL | C1(CC1)CBr | C4H7Br
reactant | potassium carbonate | 60 mmol, 8.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 90 mL | CC(=O)C | C3H6O
product | 4-(Cyclopropylmethoxy)-3-hydroxybenzaldehyde | 0.42 g, 7% | C1(CC1)COC1=C(C=C(C=O)C=C1)O | C11H12O3
